US05449676
10 g (36 mmol) of 3-hydrazino-6-[4-methoxy-3-(1-methylethoxy)phenyl]pyridazine are hydrogenated in 100 ml of methanol in the presence of 1 g of Raney nickel with hydrogen under atmospheric pressure at room temperature while stirring efficiently. Starting material is no longer detectable after 4 hours. The solution is filtered to remove catalyst and concentrated in vacuo, and the residue is crystallized from isopropanol/cyclohexane. 4.3 g (46%) of 3-amino-6-[4-methoxy-3-(1-methylethoxy)phenyl]pyridazine of m.p. 184° C. are obtained.

reactant | 3-hydrazino-6-[4-methoxy-3-(1-methylethoxy)phenyl]pyridazine | 36 mmol, 10 g | N(N)C=1N=NC(=CC1)C1=CC(=C(C=C1)OC)OC(C)C | C14H18N4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | Raney nickel | 1 g | [Ni] | Ni
product | 3-amino-6-[4-methoxy-3-(1-methylethoxy)phenyl]pyridazine | 4.3 g, 46% | NC=1N=NC(=CC1)C1=CC(=C(C=C1)OC)OC(C)C | C14H17N3O2
